US06936612B2
A solution of 8-cyclopropyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.5 g, 2.1 mmol) and 2-benzenesulfonyl-3-phenyl-oxaziridine (0.84 g, 3.2 mmol) in CH2Cl2 (5 mL) was stirred at room temperature for 20 hours. The white solid formed was collected by filtration and washed with hexane, then dried to give 8-cyclopropyl-2-methylsulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.388 g, 74%). 1H NMR: δ(400 MHz, DMSO) 9.15 (s, 1H), 8.0 (d, J=9.5 Hz, 1H), 6.74 (d, J=9.5 Hz, 1 H), 2.92(s, 1H), 1.18˜1.14(m, 2H), 0.83˜0.79 (m, 2H).

reactant | 8-cyclopropyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 2.1 mmol, 0.5 g | C1(CC1)N1C(C=CC2=C1N=C(N=C2)SC)=O | C11H11N3OS
reactant | 2-benzenesulfonyl-3-phenyl-oxaziridine | 3.2 mmol, 0.84 g | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 8-cyclopropyl-2-methylsulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.388 g, 74% | C1(CC1)N1C(C=CC2=C1N=C(N=C2)S(=O)C)=O | C11H11N3O2S
